US04230707
2-Methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid
A mixture of 2-amino-5-methyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, page 94-100, 1966), 18.5 g (0.1 mol) and 6-chloro-3-pyridinecarboxylic acid (Aldrich Chemical Company), 15.7 g (0.1 mol) is heated in an oil bath at 170°-190° C. for 20 hours. The mixture is cooled, extracted with hot chloroform and the residue is dissolved in hot pyridine, cooled and 0.4 g of 2-methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid is collected; mp 312°-315° C. after recrystallization from methanol.

reactant | 2-amino-5-methyl-3-thiophenecarboxylic acid, ethyl ester | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
product | 2-Methyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid | CC1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)O)S1 | C12H8N2O3S
